US06025370
In 7 ml of ethanol was suspended 0.70 g of ethyl 4-amino-2-fluoro-3-methylbenzoate, followed by adding thereto 7 ml of lN sodium hydroxide, and the resulting mixture was stirred at 40° C. for 4 hours. To the reaction mixture was added 1.2 ml of 6N hydrochloric acid, followed by extraction with 50 ml of ethyl acetate. The extract solution was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent, to obtain 0.59 g of 4-amino-2-fluoro-3-methylbenzoic acid as colorless crystals.

reactant | ethyl 4-amino-2-fluoro-3-methylbenzoate | 0.70 g | NC1=C(C(=C(C(=O)OCC)C=C1)F)C | C10H12FNO2
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 1.2 ml | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 4-amino-2-fluoro-3-methylbenzoic acid | 0.59 g | NC1=C(C(=C(C(=O)O)C=C1)F)C | C8H8FNO2
